US06858739B2
Step A: 5,6-Dichloro-2-(4-methoxy-3-nitro-phenyl)-1H-benzoimidazole
4-Methoxy-3-nitrobenzaldehyde (4.65 g, 27.6 mmol) and sodium bisulfite (5.79 g, 55.2 mmol) were added to ethanol (200 mL) and refluxed for 4 hours at which time 1,2-dichloro-4,5-phenylenediamine (4.56 g, 27.6 mmol) was added and the mixture was refluxed overnight. The reaction mixture was filtered while hot, and the pea-green solid washed with ethanol.(3.09 g) mp 250° C.

reactant | 4-Methoxy-3-nitrobenzaldehyde | 27.6 mmol, 4.65 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | sodium bisulfite | 55.2 mmol, 5.79 g | S([O-])(O)=O.[Na+]
reactant | 1,2-dichloro-4,5-phenylenediamine | 27.6 mmol, 4.56 g | ClC1=C(C=C(C(=C1)N)N)Cl | C6H6Cl2N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5,6-Dichloro-2-(4-methoxy-3-nitro-phenyl)-1H-benzoimidazole | ClC1=CC2=C(NC(=N2)C2=CC(=C(C=C2)OC)[N+](=O)[O-])C=C1Cl | C14H9Cl2N3O3
